* Series R + diode clamp — a genuinely nonlinear .dc sweep.
* Vin --[R1]-- mid --[D1]-- gnd, sweeping the source across the diode's knee.
* Unlike diode_iv.net (where V1 forces the swept node directly, so V(in) = V1 is a
* straight line), the divider between R1 and the diode's exponential I-V makes V(mid)
* itself the nonlinear quantity: it tracks Vin while the diode is off, then clamps near
* the knee as the diode turns on and R1 takes the rest of the drop.
V1 in  gnd  DC 0.0
R1 in  mid  1000
D1 mid gnd  diode
.dc V1 0.0 2.0 0.05
.end
