* Compiled-model flicker noise -- T5.2's flicker_noise() lowering gate.
* The same bias network circuits/diode_noise.net uses, but D1 resolves to the compiled
* models/diode_flicker.va, which declares both a shot and a 1/f source:
*   I <+ white_noise(2*q*|Id|)                  -- flat
*   I <+ flicker_noise(KF*|Id|^AF, 1.0)         -- KF*|Id|^AF / f
* so the output spectrum is *shaped*, unlike every other noise circuit in the zoo: flicker
* dominates the low end and the flat shot+thermal floor takes over above the corner. That shape
* is what makes this a real test of the flicker channel -- a white-only implementation would
* produce a flat spectrum and miss by orders of magnitude at 10 Hz.
* QSPICE's own diode uses exactly this KF/AF parameterization (.model D(... KF AF)), so the
* translation is one-to-one and the comparison is meaningful across the whole band.
V1 in  gnd  DC 0.7
R1 in  a    1000
D1 a   gnd  diode_flicker
.noise V(a) V1 dec 10 10 10meg
.end
