* Resistor divider — bring-up rung 1.
* Vin --[R1]-- mid --[R2]-- gnd, driven by a 1 V DC source.
* Expected DC: V(mid) = Vin * R2/(R1+R2) = 1.0 * 1k/2k = 0.5 V.
V1 in  gnd  DC 1.0
R1 in  mid  1000
R2 mid gnd  1000
.op
.end
