* Hierarchical resistor divider -- module-instantiation bring-up fixture.
* Vin --[series_divider: two 1k legs in series = 2k]-- mid --[R2: 1k]-- gnd, driven by 1 V DC.
* Expected DC: V(mid) = Vin * R2/(R_series+R2) = 1.0 * 1k/3k = 1/3 V.
V1 in  gnd  DC 1.0
D1 in  mid  series_divider
R1 mid gnd  1000
.op
.end
