* A two-path interferometer swept in frequency — fringes from two transport delays.
* The device sums two delayed copies of its input (arms at t1 = 0 and t2 = 1us), so its own
* admittance carries H(jw) = (1 + exp(-jw*t2))/2 / r. Driven through R1 = 500 into a 1k load,
* KCL gives V(out)/V(in) = 1 / (1 + (R1/r)*(1 + exp(-jw*t2))/2).
* The response is periodic in frequency with spacing 1/(t2 - t1) = 1 MHz -- the free spectral
* range. Swept over 2.5 MHz so more than two full fringes appear: a rational filter can imitate
* one fringe, never a repeating comb.
*
* The grid is chosen so its 50 kHz spacing divides the 1 MHz free spectral range exactly -- that
* is what lets the test compare f against f + FSR as a point-for-point identity rather than by
* interpolating between samples.
V1 in  gnd  DC 0 AC 1
R1 in  out  500
D1 out gnd  interferometer r=1000 t1=0 t2=1e-6
.ac lin 51 5e4 2.55e6
.end
