* A four-port Verilog-A model, built from a sibling file's primitive.
* Two things this deck needs that did not exist before 2026-09-01: `X` places a model with any
* number of ports (every other device letter fixes its count at 2, 3 or 4), and `--model` takes
* a *directory*, so `tee`'s instance of `scaler` resolves against the sibling file that declares
* it. The photonic corpus is the motivating case for both: one module per file, and a waveguide
* with two [0:3] vector ports needs eight terminals.
* Expected, by hand: each arm is a conductance against a 1k load, so V(b) = 2*g1/(g1 + 1m) = 1 V
* and V(d) = 3*g2/(g2 + 1m) = 2 V.
*
*   cargo run -p va-cli -- sim circuits/lib_tee.net --model tests/fixtures/lib
V1 a gnd DC 2
V2 c gnd DC 3
X1 a b c d tee
R1 b gnd 1000
R2 d gnd 1000
.op
.end
